US04330546
3-(4-Cyanophenoxy)-N,N-dimethyl-3-phenylpropylamine
A mixture of N,N-dimethyl-3-hydroxy-3-phenylpropylamine (3.58 g, 20 mM), 50% sodium hydride dispersion (1 g) and DMSO (50 ml) was heated at 80° until homogenous, cooled to ambient temperature and treated dropwise with a solution of 4-fluorobenzonitrile (2.42 g, 20 mM) in DMSO with cooling (exothermic). After 1 h the reaction mixture was poured on to water (200 ml) and extracted with ether (2×200 ml). The ether extract was extracted with 1 N hydrochloric acid (2×50 ml), the acid extract basified and then extracted with ether (2×200 ml). The ether was dried and the solvents removed under reduced pressure to give an oil which was dissolved in ethyl acetate and treated with an excess of a solution of oxalic acid dihydrate in ethyl acetate. Removal of the resultant precipitate by filtration followed by recrystallisation from ethyl acetate gave the title compound (4.8 g) as the oxalate quarter hydrate m.p. 80° (decomp). Found: C, 64.1; H, 6.05; N, 7.7% C18H20N2O.C2H2O4 requires: C, 64.1; H, 6.1; N 7.5%.

reactant | N,N-dimethyl-3-hydroxy-3-phenylpropylamine | 20 mM, 3.58 g | CN(C)CCC(C1=CC=CC=C1)O | C11H17NO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-fluorobenzonitrile | 20 mM, 2.42 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | oxalic acid dihydrate | O.O.C(C(=O)O)(=O)O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
product | 3-(4-Cyanophenoxy)-N,N-dimethyl-3-phenylpropylamine | 4.8 g | C(#N)C1=CC=C(OC(CCN(C)C)C2=CC=CC=C2)C=C1 | C18H20N2O
